US08247431B2
Step 6: Preparation of 3-amino-4-bromo-6-chloro-pyridine-2-carboxylic acid
3-Amino-4-bromo-6-chloro-pyridine-2-carboxylic acid methyl ester (169 mg) was suspended in methanol (3 mL) and 2N sodium hydroxide solution (2 mL). The suspension was stirred at 50° C. for 3 hours. The precipitate was filtered off and washed carefully with diethyl ether. The precipitate was dissolved in a mixture of 2N hydrochloric acid and ethyl acetate and the layers were separated. The aqueous layer was 2× extracted with ethyl acetate, washed with brine, dried over MgSO4 and concentrated in vacuum to afford 138 mg of the title compound of the formula

reactant | 3-Amino-4-bromo-6-chloro-pyridine-2-carboxylic acid methyl ester | 169 mg | COC(=O)C1=NC(=CC(=C1N)Br)Cl | C7H6BrClN2O2
solvent | methanol | 3 mL | CO | CH4O
solvent | sodium hydroxide | 2N, 2 mL | [OH-].[Na+]
product | 3-amino-4-bromo-6-chloro-pyridine-2-carboxylic acid | 138 mg | NC=1C(=NC(=CC1Br)Cl)C(=O)O | C6H4BrClN2O2
